US06114532
a. 4-[(6-(N-ethoxycarbonylmethyl-quinolin-8-yl)-sulphonylamino-3-bromo-benzofuran-2-yl)-methyl]-benzonitrile
1.0 g (2 mmol) of 4-[(6-(quinolin-8-yl-sulphonylamino)-3-bromo-benzofuran-2-yl)-methyl]-benzonitrile are dissolved in 20 ml absolute tetrahydrofuran and after the addition of 100 g (2 mmol) of sodium hydride (50% in oil) stirred for 20 minutes at ambient temperature. Then 0.22 ml (2 mmol) of ethyl bromoacetate are added under a nitrogen atmosphere. The reaction mixture is refluxed for 6 hours, cooled, diluted with ethyl acetate and washed with sodium chloride solution. The combined organic extracts are dried and concentrated by evaporation. The residue is chromatographed on silica gel and eluted with petroleum ether/ethyl acetate (90:10 and 75:25). The desired fractions are combined and concentrated by evaporation.

reactant | 4-[(6-(quinolin-8-yl-sulphonylamino)-3-bromo-benzofuran-2-yl)-methyl]-benzonitrile | 2 mmol, 1.0 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC1=CC2=C(C(=C(O2)CC2=CC=C(C#N)C=C2)Br)C=C1 | C25H16BrN3O3S
reactant | sodium hydride | 2 mmol, 100 g | [H-].[Na+]
reactant | ethyl bromoacetate | 2 mmol, 0.22 ml | BrCC(=O)OCC | C4H7BrO2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(6-(N-ethoxycarbonylmethyl-quinolin-8-yl)-sulphonylamino-3-bromo-benzofuran-2-yl)-methyl]-benzonitrile | C(C)OC(=O)CN1CC=CC2=CC=CC(=C12)C1=CC2=C(C(=C(O2)CC2=CC=C(C#N)C=C2)Br)C(=C1)N=S(=O)=O | C29H22BrN3O5S
